US06794395B1
2-nitro-4-trifluoromethyl-phenylacetic acid
16.7 g of tert.butyl 2-nitro-4-trifluoromethyl-phenylacetate and 50 ml of trifluoroacetic acid are dissolved in 50 ml of methylene chloride and stirred for 3 hours at ambient temperature. After elimination of the solvent the residue is taken up in petroleum ether/ether (10:1), suction filtered and dried in vacuo at 80° C.

reactant | tert.butyl 2-nitro-4-trifluoromethyl-phenylacetate | 16.7 g | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)CC(=O)OC(C)(C)C | C13H14F3NO4
reactant | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-nitro-4-trifluoromethyl-phenylacetic acid | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)CC(=O)O | C9H6F3NO4
